US07435837B2
Treatment of (±)-[7-(3-trifluoromethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.67 g, 5.06 mmol) with diisopropylethylamine (0.98 g, 7.59 mmol) and benzyl chloroformate (1.04 g, 6.07 mmol) generally according to the procedure described for Intermediate 12 provided 2.1 g (97%) of (±)-benzyl {7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methylcarbamate as a colorless oil. Rf=0.51; Anal. calcd. for C24H20F3NO3: C, 67.44; H, 4.72; N, 3.28. Found: C, 67.08; H, 5.05; N, 3.22.

reactant | (±)-[7-(3-trifluoromethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 5.06 mmol, 1.67 g | FC(C=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CN)(F)F | C16H14F3NO
reactant | diisopropylethylamine | 7.59 mmol, 0.98 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 6.07 mmol, 1.04 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methylcarbamate | 2.1 g, 97% | FC(C=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O)(F)F | C24H20F3NO3
